US08304443B2
1-Benzyl-3-cyclobutylindazol-6-ol
Cyclobutyl(2-fluoro-4-hydroxyphenyl)methanone (6.967 g) which can be prepared according to the method described in Reference example 9, etc., sodium acetate (14.16 g; manufactured by Kanto Chemical Co., Inc.), and benzylhydrazine-dihydrochloride (10.55 g; manufactured by Sigma-Aldrich Co.) were suspended in xylene (85 mL; manufactured by Wako Pure Chemical Industries, Ltd.). By using a dean-stark apparatus, the mixture was stirred overnight at reflux. After cooling to room temperature, solid obtained after filtering the precipitate was dissolved in water and ethyl acetate. The aqueous layer was extracted twice with ethyl acetate. The organic layer was combined, washed twice with water and brine and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the title compound was obtained (8.003 g).

reactant | Cyclobutyl(2-fluoro-4-hydroxyphenyl)methanone | 6.967 g | C1(CCC1)C(=O)C1=C(C=C(C=C1)O)F | C11H11FO2
reactant | sodium acetate | 14.16 g | C(C)(=O)[O-].[Na+]
reactant | benzylhydrazine-dihydrochloride | 10.55 g | Cl.Cl.C(C1=CC=CC=C1)NN
solvent | xylene | 85 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 1-Benzyl-3-cyclobutylindazol-6-ol | C(C1=CC=CC=C1)N1N=C(C2=CC=C(C=C12)O)C1CCC1 | C18H18N2O
